US05990116
5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-methoxycarbonylamino Benzoic acid Methylester (Process e)
A mixture of 115 mg of 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-amino benzoic acid methylester and 50 mg of 4-dimethylaminopyridine in 6 ml of dry dichloromethane is treated with 35 mg of methyl chloroformiate and stirred for 3 hours at room temperature. Then the mixture is poured onto aqueous pH7 buffer solution and extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate and concentrated in vacuo. The crude product is purified by silica gel chromatography (cyclohexane/ethyl acetate=8/1) to yield the title compound as colourless crystals. mp: 80-82°.

reactant | 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-amino benzoic acid methylester | 115 mg | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)N)=O | C18H21NO4
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-methoxycarbonylamino Benzoic acid Methylester | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)NC(=O)OC)=O | C20H23NO6
